US06821965B1
N-(3-dimethylaminophenyl)-3-(3-methoxybenzamido)-4-methylbenzamide
Triethylamine (0.101 g) was added to a stirred mixture of 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide (0.135 g), 3-methoxybenzoyl chloride (0.13 g) and methylene chloride (5 ml) and the resultant mixture was stirred at ambient temperature for 16 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The organic phase was evaporated and the residue was triturated under a mixture of ethyl acetate and isohexane. There was thus obtained the title compound as a solid (0.156 g); Mass Spectrum: M+H+ 404.

reactant | Triethylamine | 0.101 g | C(C)N(CC)CC | C6H15N
reactant | 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide | 0.135 g | NC=1C=C(C(=O)NC2=CC(=CC=C2)N(C)C)C=CC1C | C16H19N3O
reactant | 3-methoxybenzoyl chloride | 0.13 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(3-dimethylaminophenyl)-3-(3-methoxybenzamido)-4-methylbenzamide | 0.156 g | CN(C=1C=C(C=CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC(=CC=C1)OC)=O)=O)C | C24H25N3O3
